US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-isoquinolin-5-yl-amino]-N,N-diethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-isoquinolin-5-yl-amino]-acetic acid with diethylamine

reactant | [(4-tert-butyl-benzenesulfonyl)-isoquinolin-5-yl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=C2C=CN=CC2=CC=C1)CC(=O)O | C21H22N2O4S
reactant | diethylamine | C(C)NCC | C4H11N
product | 2-[(4-tert-Butyl-benzenesulfonyl)-isoquinolin-5-yl-amino]-N,N-diethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC)CC)C1=C2C=CN=CC2=CC=C1 | C25H31N3O3S
